* AD8225 SPICE Macro-model             
* Description: Amplifier
* Generic Desc: 36V Bipolar, Inamp, prec G=5
* Developed by: SPL
* Revision History: 08/10/2012 - Updated to new header style
* 2.0 (07/2002)
* Copyright 2002, 2012 by Analog Devices
*
* Refer to http://www.analog.com/Analog_Root/static/techSupport/designTools/spiceModels/license/spice_general.html for License Statement. Use of this model 
* indicates your acceptance of the terms and provisions in the License Statement.
*
* BEGIN Notes:
*
* Not Modeled:
*    
* Parameters modeled include: 
* This model simulates the worst-case
* parameters of the AD8225. The worst-case parameters used 
* correspond to the following, as specified in the data sheet: 
*
*      Differential Gain and Bandwidth
*      Common-Mode Gain and Bandwidth
*      Gain Error
*      Supply Current
*      Vos
*      Ios
*      Ibias
*
*
* END Notes
*
* Node assignments
*                 non-inverting input
*                 |  inverting input
*                 |  |  positive supply
*                 |  |  |  negative supply
*                 |  |  |  |  output
*                 |  |  |  |  |  ref
*                 |  |  |  |  |  |  
*                 |  |  |  |  |  |  
*                 |  |  |  |  |  |  
.SUBCKT AD8225    1  2  99 50 46 20  
D1         7 4 DX 
Q3         12 13 14 QN2 
IOS         3 4 DC 0.5e-9Adc  
D7         25 26 DX 
E3         36 98 Poly(2) 1 98 2 98 0 0.5 0.5
D14         42 40 DX 
GSY         99 50 Poly(1) 99 50 609e-6 16.2e-6
R8         99 15  11.937e3  
CCM         3 4  2e-12  
C2         25 98  7.167e-12  
R19         38 98  1  
R12         13 46  10e3  
GO1         45 99 99 40 4e-3
R2         2 4  400  
V7         27 50 1.33Vdc
I4         50 3 DC 1.08nAdc  
R18         36 38  1e6  
D15         53 13 DX 
RO2         45 50  250  
R6         8 10  24.7e3  
D8         27 25 DX 
C5         36 38  224.812e-13  
R14         16 20  10e3  
D12         99 44 DX 
R3         99 5  100e3  
G1         98 25 12 15 83.776e-6
C1         12 15  6.667e-13  
E_E2         10 46 11 6 375e6
V6         99 26 1.53Vdc
Q4         15 16 17 QN2 
D2         8 21 DX 
R16         25 98  35.810e9  
V3         99 52 0.7Vdc
Q2         6 21 8 QN1 
R11         9 13  10e3  
R4         99 6  100e3  
GC2         44 50 45 40 4e-3
R13         16 19  10e3  
CD2         4 0  2e-12  
D16         54 16 DX 
VIOS         21 3 125e-6Vdc
R10         17 18  1.592e3  
RO1         99 45  250  
RV1         99 11  1e3  
I5         50 4 DC 0.52nAdc  
C3         40 98  15.916e-9  
EREF         98 0 Poly(2) 99 0 50 0 0 0.5 0.5
D3         13 51 DX 
D13         40 41 DX 
Q1         5 4 7 QN1 
R1         1 3  400  
R17         40 98  1  
GO2         50 45 40 50 4e-3
R9         14 18  1.592e3  
R7         99 12  11.937e3  
D9         50 43 DY 
CD1         3 0  2e-12  
CC2         6 10  4e-12  
G2         98 40 25 98 1
GC1         43 50 40 45 4e-3
EOOS         19 10 Poly(1) 38 98 1.2e-3 223.872
I3         18 50 DC 5e-6Adc  
V1         99 11 0.5Vdc
I2         8 50 DC 5.002e-6Adc  
V13         54 50 0.7Vdc
L_L1         45 46  1e-6  
V2         99 51 0.7Vdc
CC1         5 9  4e-12  
E_E1         9 46 11 5 375e6
V12         53 50 0.7Vdc
D11         99 43 DX 
D4         16 52 DX 
I1         7 50 DC 5.002e-6Adc  
R5         7 9  24.7e3  
R15         7 8  12.395k  
D10         50 44 DY 
F1   45   0    VF1 1
F2   0    45   VF2 1
VF1   41   45   1.65
VF2   45   42   1.65

.model DX D Is=1e-12 Cjo=.1pF Rs=.1
.model DY D IS=1e-12 BV=50
.model QN1 NPN (BF=2.5e3 KF=0.7e-15 AF=1)
.model QN2 NPN (BF=250 KF=0.5e-14 AF=1)

.ENDS AD8225






